US05202335
To a suspension of 4-nitrophenyl 2-(4-methylbenzyl)-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)propionate (1.7 g) in methanol (10 ml) was added 1N sodium hydroxide solution (8.0 ml) and the mixture was stirred at room temperature for 15 hours. The reaction mixture was acidified with 1N hydrochloric acid under ice-cooling and extracted with ethyl acetate. The organic layer was washed with brine and dried over MgSO4. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (2/1) to give 0.4 g of 2-(4-methylbenzyl)-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)propionic acid as a colorless crystal.

reactant | 4-nitrophenyl 2-(4-methylbenzyl)-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)propionate | 1.7 g | CC1=CC=C(CC(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])CC(=O)N2C[C@H]3CC=CC[C@H]3C2)C=C1 | C26H28N2O5
reactant | sodium hydroxide | 1N, 8.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 2-(4-methylbenzyl)-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)propionic acid | 0.4 g | CC1=CC=C(CC(C(=O)O)CC(=O)N2C[C@H]3CC=CC[C@H]3C2)C=C1 | C20H25NO3
